US04547514
3-[(2,3-Dihydro-1H-inden-4-yl)oxy]-1-pyrrolidinecarbonyl Chloride
To a stirred solution of 6.9 g (0.07 mole) of phosgene in 100 ml of anhydrous benzene under nitrogen gas and cooled at 10° C. was added dropwise a solution of 18.13 g (0.062 mole) of 1-benzyl-3-(4-indanyloxy)pyrrolidine in 50 ml of dry benzene. After stirring for 18 hr, the slightly turbid reaction mixture was filtered through celite. The filtrate was washed with 50 ml of ice-water, dried over magnesium sulfate and concentrated on a rotary evaporator. The solid residue was triturated with boiling isopropyl ether. Fifteen grams of crude product was obtained by filtering the mixture. Recrystallization from a mixture of benzene and 30/60 petroleum ether gave 13.1 g of cream colored solid, m.p. 128°-129° C.

reactant | phosgene | 0.07 mole, 6.9 g | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-3-(4-indanyloxy)pyrrolidine | 0.062 mole, 18.13 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=C2CCCC2=CC=C1 | C20H23NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3-[(2,3-Dihydro-1H-inden-4-yl)oxy]-1-pyrrolidinecarbonyl Chloride | Fifteen grams | C1CCC2=C(C=CC=C12)OC1CN(CC1)C(=O)Cl | C14H16ClNO2
